Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
amoxicillin
 
Attending: ___
 
Chief Complaint:
"The BU Anxiety Line told me to come to the
hospital"
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
___ is a ___ year old student at ___ with a self-reported
history of depression and substance abuse who presented 
following
a recent suicide attempt.

The patient recently learned that his close friend died due to a
heroin dose. Shortly after hearing this news he drove to his
family's land (in ___, ___), obtained a family firearm,
paddled a kayak to the ___ a river/lake and held the
unloaded gun in his mouth for several minutes. He had bullets
with him and pulled the trigger of this unloaded gun while it 
was
in his mouth. He then threw the gun in the water after deciding
that he wanted "to live." He did not tell his family or friends
about this event until the day of presentation.

Prior to his friend's death the patient had been feeling
increasingly depressed with low energy, inability to 
concentrate,
difficulty sleeping, and thoughts of suicide and feelings of
worthlessness. The patient reports near-nightly use of marijuana
and frequent alcohol use (last drink on ___. He denies history
of alcohol withdrawal. He has a history of intravenous drug use
(cocaine and heroin) with last use over three months ago.

On initial interview the patient denies suicidal ideation or
thoughts of self-harm. He denies previous suicide attempts or
non-suicidal self-injurious behavior prior to the aforementioned
episode. He does report feeling very anxious both prior to
presentation and on transfer to the psychiatric unit.

PSYCHIATRIC REVIEW OF SYSTEMS: As per HPI. The patient denies
suicidal ideation at this time.
   
ED COURSE: The patient was calm and cooperative and did not
require restraints.
   
Medication admins: Sertraline 50 mg PO ___ 20:18),
Lorazepam (0.5mg PO).
   
ROS: All systems reviewed and were negative.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
 - Prior diagnoses: Self-reported history of depression and
anxiety. No formal diagnoses made.
 - Hospitalizations: None
 - Current treaters and treatment: no current treaters. 
 - Medication and ECT trials: Zoloft 50 mg qd (currently 
taking),
no others previously
 - Suicide attempts: None prior to aforementioned event
 - Self-injurious behavior: denies
 - Harm to others: denies
 - Access to weapons: Has access to firearms and bullets at
family ___ in ___

 PAST MEDICAL HISTORY: The patient denies any past medical
history including head injuries or seizures.

 MEDICATIONS:
 - Zoloft 50mg PO daily (Not confirmed with the patient's
pharmacy).   

 Allergies:
 - Amoxicillin (unspecified reaction. Occurred early in the
patient's childhood).

 FAMILY PSYCHIATRIC HISTORY: The patient is unaware of any
psychiatric illnesses in the family or past suicide attempts.

 SUBSTANCE USE HISTORY: Per Dr. ___ (___), 
confirmed
with patient and updated as relevant:
 - Alcohol: Reports drinking several nights per week (whisky and
vodka) with frequent black outs. Denies history of withdrawal
symptoms including seizures.
 - Cocaine/amphetamines: Used cocaine and Adderall last year
 - Opioids: Injected cocaine and heroine several times over the
last year.
 - Marijuana: Nightly use
 - LSD: Last year used LSD and shrooms

 FORENSIC HISTORY: Per Dr. ___ (___), confirmed 
with
patient and updated as relevant:
 - Denies history of arrests or convictions.

 SOCIAL HISTORY: ___
Family History:
see above
 
Physical Exam:
 PHYSICAL EXAMINATION:
 VS: T: 99.4, BP: 131/92, HR: 66, O2 sat: 97% on RA 

- General: Young male in NAD. Well-nourished, well-developed.
Appears stated age.
 - HEENT: Normocephalic, atraumatic. EOMI.
 - Neck: Supple.
 - Back: No significant deformity.
 - Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 - CV: RRR, no murmurs/rubs/gallops. 
 - Abdomen: +BS, soft, nontender, nondistended. No palpable
masses or organomegaly.
 - Extremities: No clubbing, cyanosis, or edema.
 - Skin: No rashes, abrasions, or lesions. Well-healed scar over
dorsal aspect of right hand.

Neurological:
 - Motor: Normal bulk and tone bilaterally. No abnormal
movements, no asterixis, no tremor. Strength: full power ___
throughout.
 - Coordination: No dysdiadochokinesia
 - Gait: Steady. Normal stance and posture. No truncal ataxia.
 - Romberg: Negative.

Cognition: 
 - Wakefulness/alertness: awake and alert
 - Attention: intact to interview. Able to state MOYB
 - Orientation: oriented to person, time, place, situation
 - Memory: intact to recent and past history and current events
including that ___ is running for office.
 - Fund of knowledge: consistent with education. Able to provide
last three presidents.
 - Calculations: $2.25 contains nine quarters
 - Speech: normal rate, volume, and tone
 - Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 - Appearance: No apparent distress, appears stated age, well
groomed, dressed in hospital gown.
 - Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
 - Mood and Affect: "Okay / euthymic, full range, appropriate to
situation, congruent with mood
 - Thought Process: linear, coherent, goal-oriented. No LOA.
 - Thought Content: denies SI, no evidence of delusions or
paranoia
 - Judgment and Insight: poor/poor

LABS, IMAGING, AND OTHER STUDIES:
 - CBC: WNL
 - BMP: WNL other than glucose of 111.
 - UA: WNL
 - Urine tox: Negative for benzos, barbituates, opiates, 
cocaine,
amphetamine, and methadone.
 - Serum tox: Negative for aspirin, benzos, barbituates, 
ethanol,
TCAs and acetaminophen.

 
Pertinent Results:
___ 01:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:30AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-7.0 
LEUK-NEG
___ 07:31PM   GLUCOSE-111* UREA N-15 CREAT-0.9 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-26 ANION GAP-17
___ 07:31PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:31PM   WBC-7.9 RBC-5.23 HGB-15.7 HCT-45.7 MCV-87 
MCH-30.0 MCHC-34.4 RDW-12.2 RDWSD-38.7
___ 07:31PM   NEUTS-61.8 ___ MONOS-10.7 EOS-0.6* 
BASOS-0.9 IM ___ AbsNeut-4.86 AbsLymp-2.01 AbsMono-0.84* 
AbsEos-0.05 AbsBaso-0.07
___ 07:31PM   PLT COUNT-259
 
Brief Hospital Course:
In his first team meeting, he corroborated story about the 
several 
days prior to presentation. He also shared more detail about his 

relationship with bandmates, with whom he had been quite close 
and was 
even sharing living space until 3 weeks ago. He had been doing
fairly well in school until this semester when he reports he was
drinking multiple nights/week (including school nights) and
smoking MJ almost every night. He denies using heroin or 
cocaine,
but knows that his 2 bandmates were doing so. A few weeks ago he
felt that he needed to focus more on school and abruptly decided
to distance himself from these girls, so when he found out that
one of them had OD'ed, he was quite distraught. He describes a
great deal of ongoing guilt about her overdose and feels
partially to blame because he feels he was "one of the only
people she had."

Over the next several days, pt made good use of the groups, 
attending most and participating and sharing. He also seemed to
respond to several peers in his age group. That, and his 
improved 
sleep due to medication, had a noticeable positive effect on his
outlook and mood. He began to develop perspective on his role 
and
responsibility in the death. He also decided he wanted to be 
back
at home, resuming his ___ job from the summer. He felt 
that
the outdoor physical labor and the support of his family and old 
friends
would be important.

Once we had a follow-up appointment near his home, and he denied 
any
active or passive SI, he appeared ready for discharge. PLEASE
NOTE: We spoke with his father about the presence of firearms. 
He said he was also worried, so he had already taken all of his 
guns and locked them
away in an office that was itself locked and that his son has no 

access to. The patient denied knowing of any available guns 
except
for his father's.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1. Sertraline 150 mg PO DAILY 
RX *sertraline 50 mg 3 tablet(s) by mouth qam Disp #*45 Tablet 
Refills:*1
2. HydrOXYzine 25 mg PO QHS 
RX *hydroxyzine HCl 25 mg 1 pill by mouth at bedtime Disp #*15 
Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depression

 
Discharge Condition:
Awake and alert. Under good behavioral control. Mood is 
brighter, more optimistic and full-range. Not labile. Thoughts 
are clear, goal-directed, and reality-based. He denies any 
suicidal thoughts or feelings. No hallucinations.

 
Discharge Instructions:
Please keep all appointments. 
Please take all medications as prescribed.
 
Followup Instructions:
___